US05004780
A mixed solution consisting of 15.9 g of dimethyl sulfoxide and 1.2 g of p-toluenesulfonic acid was kept at 20° C., into which was added dropwise another solution consisting of 29.1 g of cyclohexanone-dimethylacetal and 21.1 g of 1,1-dimethylpropyl hydroperoxide. The resulting solution had an acid concentration of 0.1 mol/kg of the solution. The solution was treated in the same manner as described in Example 1 to obtain 33.8 g (yield: 67%) of crude 1-methoxy-1-(1,1-dimethylpropylperoxy)cyclohexane having a purity of 86%. The resulting crude peroxyketal was distilled at 43°-45° C. under a vacuum of 0.1 mmHg to obtain a purified peroxyketal having a purity of 98%.

reactant | cyclohexanone-dimethylacetal | 29.1 g | COC1(CCCCC1)OC | C8H16O2
reactant | 1,1-dimethylpropyl hydroperoxide | 21.1 g | CC(CC)(C)OO | C5H12O2
catalyst | p-toluenesulfonic acid | 1.2 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | dimethyl sulfoxide | 15.9 g | CS(=O)C | C2H6OS
product | 1-methoxy-1-(1,1-dimethylpropylperoxy)cyclohexane | 33.8 g, yield: 67% | COC1(CCCCC1)OOC(CC)(C)C | C12H24O3
